US05202437
To a solution of (2S,4S)-2-(methanesulfonyloxy)-methyl-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine (5.0 g) in dimethylformamide (90 ml) was added piperazine (2.0 g) and the mixture was stirred at 80°]90°C. for 5 hours. The reaction mixture was poured into ice-water (300 ml) and extracted twice with ethyl acetate (200 ml). The extract was washed with saturated aqueous sodium chloride, dried over magnesium sulfate and evaporated in vacuo. The resulting residue was chromatographed on silica gel (150 g) eluting with a mixture of chloroform and methanol (9:1 V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4S)-1-(4-nitrobenzyloxycarbonyl)-2-(piperazin-1-yl)methyl-4-(triphenylmethylthio)pyrrolidine (2.52 g).

reactant | (2S,4S)-2-(methanesulfonyloxy)-methyl-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine | 5.0 g | CS(=O)(=O)O[C@@]1(N(C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C | C33H32N2O7S2
reactant | piperazine | 2.0 g | N1CCNCC1 | C4H10N2
solvent | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
product | (2S,4S)-1-(4-nitrobenzyloxycarbonyl)-2-(piperazin-1-yl)methyl-4-(triphenylmethylthio)pyrrolidine | 2.52 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CN2CCNCC2)C=C1 | C36H38N4O4S
